US06350907B1
A stirred solution of 4-amino-1-(3-methoxyphenyl)-2-methylbenzene (5.0 gm 23.4 mmol) and iodine (2.97 gm, 25.8 mmol) in toluene (120 mL) was heated to 50° C. and a solution of iso-amyl nitrite (3.46 mL, 25.8 mmol) in toluene (50 mL) was added. The mixture was heated at 90° C. for 2 h and cooled. The toluene was removed under reduced pressure and the residue was dissolved in dichloromethane and washed with excess 5% aqueous sodium metabisulphite to remove iodine. The organic solution was dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by repeated flash chromatography (first column gradient elution with hexane:ethyl acetate starting with neat hexane; second column eluted with hexane) to give 4-iodo-1-(3-methoxyphenyl)-2-methylbenzene as a pale orange oil (5.63 gm, 74%).

reactant | 4-amino-1-(3-methoxyphenyl)-2-methylbenzene | 23.4 mmol, 5.0 gm | NC1=CC(=C(C=C1)C1=CC(=CC=C1)OC)C | C14H15NO
reactant | iodine | 25.8 mmol, 2.97 gm | II | I2
reactant | iso-amyl nitrite | 25.8 mmol, 3.46 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-iodo-1-(3-methoxyphenyl)-2-methylbenzene | 5.63 gm, 74% | IC1=CC(=C(C=C1)C1=CC(=CC=C1)OC)C | C14H13IO
